US06444685B1
N-Benzyl-N-(3,4-dimethoxy-phenyl)-4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-benzenesulfonamide
1,4-Dioxa-8-azaspiro[4.5]decane (0.14 ml, 0.95 mM) was added to a solution of N-Benzyl-N-(3,4-dimethoxy-phenyl)-4-fluoro-benzenesulfonamide(0.19 g, 0.47 mM) and potassium carbonate (0.66 g, 4.82 mM)in anhyrous 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone(5 ml). The reaction was stirred at 70° C. for two days. The reaction was quenched with water(50 ml). The precipitate was washed with water and dried under reduced pressure to afford 0.15 g of the desired product as a tan solid. H1 NMR(CDCl3) δ 1.81(t, 4H, J=5.67 Hz), 3.50(t, 4H, J=5.97 Hz), 3.65(s, 3H), 3.81 (s, 3H), 4.01 (s, 4H), 4.66(s, 2H), 6.43(d, 1H, J=2.34 Hz), 6.53(m, 1H), 6.66(d, 1H, J=8.58 Hz), 6.90(d, 1H, J=9.03 Hz), 7.19(m, 6H), 7.53(d, 2H, J=9.00 Hz). MS(ES) m/z 525.0; (MH+); HRMS for C28H32SN2O6: 525.2049.

reactant | 1,4-Dioxa-8-azaspiro[4.5]decane | 0.95 mM, 0.14 ml | O1CCOC12CCNCC2 | C7H13NO2
reactant | N-Benzyl-N-(3,4-dimethoxy-phenyl)-4-fluoro-benzenesulfonamide | 0.47 mM, 0.19 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)F)C1=CC(=C(C=C1)OC)OC | C21H20FNO4S
reactant | potassium carbonate | 4.82 mM, 0.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 5 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | N-Benzyl-N-(3,4-dimethoxy-phenyl)-4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-benzenesulfonamide | 0.15 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)N1CCC2(OCCO2)CC1)C1=CC(=C(C=C1)OC)OC | C28H32N2O6S
